Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
Chest and left arm pain
 
Major Surgical or Invasive Procedure:
___ coronary angiography and deployment of a drug-eluting 
stent in OM1
 
History of Present Illness:
___ with H/O atrial fibrillation, diabetes mellitus, 
hypertension, hyperlipidemia, ESRD on HD and h/o prior MI 
presented with chest pain and left arm pain. This started at 7 
AM on the day of admission, described as a ___ chest pressure 
with arm pain. He received ASA 324 mg prior to arrival at ___ 
___. Patient was given SL TNG with resolution of chest 
pain. At ___, initial EKG showed 1 mm STE in III and 
AVF. Patient was started on heparin gtt. Bedside echo showed no 
gross abnormalities. Repeat EKG showed resolution of ST 
elevations. Patient also received metoprolol 2.5 mg IV for 
atrial fibrillation with a rapid ventricular rate. Given 
resolution of chest pain and ST elevations, it was decided to 
transfer the patient over to the ___ for coronary angiography 
(as he would no longer qualify for PCI as primary reperfusion 
for ongoing STEMI at ___.

In the ED initial vitals were T 97.5 VR 85 BP 124/76 RR 17 SaO2 
95% on O2 via Nasal Cannula. EKG: atrial fibrillation, low 
voltage. Patient was continued on heparin drip. Vitals on 
transfer T 98.3 VR 93 BP 122/73 RR 10 SaO2 95% on RA.

On arrival to the cardiology ward, the patient reported feeling 
well. He reported that at 7 AM, he was not doing anything in 
particular when he had sudden onset shortness of breath. He felt 
a pressure over his both sides with some left arm pain. He did 
not feel lightheaded or dizzy. There was no nausea, vomiting or 
diarrhea. He does report a prior h/o MI, but notes that it was 
so long ago he cannot remember how that felt. He has never had 
pain like this before. He felt that the pain may have been worse 
with deep breaths. Pain eventually went away after TNG. Per 
patient, he thinks he may have 3 stents from prior MI.

Notably, patient is not completely aware of his PMH. He says 
that he does not have his cholesterol followed and that it has 
not been a problem.

REVIEW OF SYSTEMS: As per HPI, otherwise negative. No fever, 
chills. No chest pain or shortness of breath on admission.
 
Past Medical History:
-Chronic back pain
-ESRD, on HD ___
-Hypertension
-Hyperlipidemia
-Diabetes mellitus, not currently on insulin
 
Social History:
___
Family History:
Patient does not know his family history.
 
Physical Exam:
On admission
GENERAL: obese elderly white man in NAD. Oriented x3. Mood, 
affect appropriate.
VS: T 98.0 BP 100s/70-80s HR 83 RR 18 SaO2 93% on RA
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple; unable to assess JVP given body habitus
CARDIAC: distant heart sounds, largely regular rhythm; no 
murmurs, rubs or gallops appreciated
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, obese abdomen with redundant abdominal tissue; no 
intertrigo noted in pannus; mildly tender on deep palpation of 
LLQ. Unable to appreciate liver/spleen.
EXTREMITIES: Bilateral LEs with venous stasis changes L>R. Right 
foot slightly cooler than Left. Bilateral Dopplerable DP and 
PTs. LUE fistula with palpable thrill.
SKIN: No ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

At discharge
GENERAL: obese man in NAD. Oriented x3. Mood, affect 
appropriate.  
VS: T 97.8 BP 70-90s/40-70s HR ___ RR 18 SaO2 95% on RA
24H/MN I/O: 320/--; -/100
Weight: None recorded at admission, 140.8 kg on ___
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple; unable to assess JVP given body habitus
CARDIAC: distant heart sounds, largely regular rhythm; no 
murmurs, rubs or gallops appreciated
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, obese abdomen with redundant abdominal tissue; no 
intertrigo noted in pannus; mildly tender on deep palpation of 
LLQ. Unable to appreciate liver/spleen.
EXTREMITIES: Bilateral LEs with venous stasis changes (brawny 
coloration) Left>Right. LUE fistula with palpable thrill.
SKIN: No ulcers, scars, or xanthomas.
NEURO: AOx3
 
Pertinent Results:
___ 01:40PM BLOOD WBC-19.0* RBC-3.77* Hgb-10.8* Hct-35.4* 
MCV-94 MCH-28.6 MCHC-30.5* RDW-15.5 RDWSD-52.6* Plt ___
___ 01:40PM BLOOD Neuts-84.6* Lymphs-8.7* Monos-4.2* 
Eos-1.5 Baso-0.3 Im ___ AbsNeut-16.10* AbsLymp-1.65 
AbsMono-0.80 AbsEos-0.28 AbsBaso-0.05
___ 01:40PM BLOOD ___ PTT-72.4* ___

___ 01:40PM BLOOD Glucose-161* UreaN-60* Creat-6.4* Na-130* 
K-9.0* Cl-89* HCO3-26 AnGap-24*

___ 01:40PM BLOOD CK(CPK)-191
___ 01:40PM BLOOD CK-MB-4 ___
___ 01:40PM BLOOD cTropnT-0.21*

DISCHARGE LABS
___ 04:40AM BLOOD Hct-35.2* Plt ___
___ 03:51AM BLOOD ___ PTT-27.1 ___
___ 04:40AM BLOOD UreaN-35* Creat-4.8*# Na-136 K-4.3 Cl-95*
___ 04:40AM BLOOD cTropnT-0.68*

ECG ___ 2:02:33 ___
The present recording is overwhelmed by baseline artifact 
precluding adequate interpretation. However, an irregular rhythm 
is observed in leads III and V2 with an average rate of about 
60. A repeat tracing of diagnostic quality is suggested. No 
previous tracing available for comparison.

ECG ___ 2:04:10 ___
The rhythm is likely atrial fibrillation with a controlled 
ventricular response and diffuse low voltage. Consider prior 
inferior and anterior wall myocardial infarctions. No prior 
interpretable tracings.

ECG ___  8:21:16 AM
Atrial fibrillation with a controlled ventricular response. 
Compared to the previous tracing there is now less artifact. Q 
waves in leads II, III, aVF, and V1 persist. However, there are 
small R waves in leads V2-V4 of uncertain significance. ST-T 
wave abnormalities. Compared to the previous tracing of ___ 
no significant change.

Echocardiogram ___
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and global systolic function (LVEF>55%). Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. The aortic root is mildly dilated at 
the sinus level. The ascending aorta is mildly dilated. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. There is 
an anterior space which most likely represents a prominent fat 
pad. 
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal global systolic function. 
Right ventricle not well seen. Mild mitral regurgitation. Mildly 
dilated thoracic aorta.
  The patient has a mildly dilated ascending aorta. Based on 
___ ACCF/AHA Thoracic Aortic Guidelines, if not previously 
known or a change, a follow-up echocardiogram is suggested in ___ 
year; if previously known and stable, a follow-up echocardiogram 
is suggested in ___ years.  
  
Cardiac catheterization ___
Dominance: Right
Coronary anatomy (right radial):
Right dominant
  LM: No disease.
  LAD: DIffuse mid and distal 60% disease.
  LCx: Subtotal occlusion in large OM1.
  RCA: No significant disease.
Interventional details: We proceeded with PCI of the OM1 after 
discussion with the referring physician and the patient. XB 3.5 
guide catheter used. The lesion was wired with a Runthrough 
wire, which was followed by balloon angioplasty using a 2.5 
balloon. Placement of a 3.5 x 32 mm Synergy DES, post-dilated 
with 4.0 NC balloon at high pressure. TIMI 3 flow, 10% residual 
stenosis.
Impressions:
-Subtotal occlusion of the OM1.
-Successful placement of a 3.5 x 32 Synergy DES, post-dilated to 
4.0.
Recommendations:
-ASA for life, clopidogrel 12 months minimum.
-Consideration for anticoagulation for AF
 
Brief Hospital Course:
___ with atrial fibrillation not on warfarin or novel oral 
anticoagulant, hypertension, hyperlipidemia, diabetes mellitus, 
ESRD on HD and h/o prior MI presented with chest and left arm 
pain with transient ST elevations and elevated troponin-T 
consistent with aborted inferior STEMI transferred for 
non-emergent coronary angiography and ad hoc PCI.

# CAD, aborted STEMI: Per patient, he has 3 stents from prior 
for which he had been on chronic clopidogrel therapy. He cannot 
recall if his symptoms from prior MI were similar to this 
episode. Inferior ST elevations resolved at ___, and 
the patient arrived on heparin gtt which was continued pre-cath. 
Troponin was noted to be elevated both at ___ and on 
arrival to ___ (peak MB 7, troponin-T to 0.48 pre-procedure); 
repeat EKGs did not reveal any further changes in ST segments.  
Patient underwent coronary angiography on ___ showing moderate 
LAD disease and subtotal occlusion of OM1 that was treated with 
a drug-eluting stent. Troponin-T peaked at 0.69 post-PCI, and 
the relative contributions of his presenting acute coronary 
syndrome vs. ___ myonecrosis could not be determined. 
Patient remained asymptomatic. Echocardiogram showed mild 
symmetric left ventricular hypertrophy with preserved overall 
systolic function (although a focal wall motion abnormality 
could not be excluded). There was also mild mitral regurgitation 
and a mildly dilated thoracic aorta. Patient was continued on 
his home clopidogrel and rosuvastatin; at discharge, his ASA was 
increased to 325 mg given his weight of 339.5 pounds and BMI of 
54.6.

# Leukocytosis: Initial leukocytosis to 19.0 without bands. The 
patient had no localizing infectious signs or symptoms. Patient 
largely anuric, but denied any changes in urinary 
frequency/quality. Lungs clear. Appeared to be downtrending by 
discharge and may be attributable to demargination from his 
aborted STEMI.

# Atrial fibrillation: Had one episode of rapid ventricular rate 
at ___ which was slowed with metoprolol. He was 
continued on his home Carvedilol 6.25 mg PO BID. We discussed 
with patient benefits and risks of full anticoagulation with 
warfarin (in combination with dual anti-platelet therapy). 
Patient reported that he was "intolerant" of warfarin which he 
had previously treated with. Given his ESRD on HD, he is not a 
candidate for NOACs. Further consideration of warfarin was 
deferred to his outpatient cardiologist.

# ESRD, on HD: Largely anuric but will make urine at times. 
Continued home Vitamin D 1000 UNIT PO DAILY, Calcium Acetate 
1334 mg PO TID W/MEALS, home Nephrocaps 1 CAP PO DAILY, and HD 
___. He was dialyzed on ___ without incident.

# Constipation: Continued home docusate and senna. Patient 
requested a Fleet enema; patient was advised that Fleet enema 
was contraindicated in patients with renal dysfunction. 
Recommended tap water enema instead.

# GERD: Continued home Pantoprazole 40 mg PO Q24H.

# Chronic back pain: Continued home Pregabalin 50 mg PO BID, 
home OxycoDONE Immediate Release) 60 mg PO Q6H:PRN pain

# Type 2 diabetes: Not currently requiring insulin, per patient. 
Did not require PRN home Glargine 8 Units Bedtime while here.

Transitional Issues:
- Requires one year of dual antiplatelet therapy with 
ASA+clopidogrel
- Consider uptitrating rosuvastatin as tolerated
- will need outpatient echocardiogram to evaluate dilated 
thoracic aorta

#CONTACT: Patient, does not want a health care proxy
#CODE: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 6.25 mg PO BID 
3. Docusate Sodium 100 mg PO BID 
4. Senna 8.6 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Vitamin D 1000 UNIT PO DAILY 
8. Calcium Acetate 1334 mg PO TID W/MEALS 
9. Nephrocaps 1 CAP PO DAILY 
10. Pregabalin 50 mg PO BID 
11. OxycoDONE (Immediate Release)  60 mg PO Q6H:PRN pain 
12. Glargine 8 Units Bedtime
13. Rosuvastatin Calcium 5 mg PO 3X PER WEEK AT BEDTIME
 
Discharge Medications:
1. Calcium Acetate 1334 mg PO TID W/MEALS 
2. Carvedilol 6.25 mg PO BID 
3. Clopidogrel 75 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Nephrocaps 1 CAP PO DAILY 
6. OxycoDONE (Immediate Release)  60 mg PO Q6H:PRN pain 
7. Pantoprazole 40 mg PO Q24H 
8. Pregabalin 50 mg PO BID 
9. Rosuvastatin Calcium 5 mg PO 3X PER WEEK AT BEDTIME 
10. Senna 8.6 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Glargine 8 Units Bedtime
13. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Aborted inferior ST segment elevation myocardial infarction
-Coronary artery disease
-Prior myocardial infarction
-Hypertension
-Hyperlipidemia
-Morbid obesity
-Diabetes mellitus, type 2, with
-End stage renal disease on hemodialysis
-Atrial fibrillation with rapid ventricular rate
-Gastroesophageal reflux disease
-Dilated thoracic aorta
-Chronic back pain
-Leukocytosis
-Constipation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

You were admitted because you had a heart attack. You underwent 
cardiac catheterization which revealed a blockage in one of the 
arteries leading to your heart. You had one stent placed to open 
the blockage. 

It is very important to take all of your heart healthy 
medications. 

You need to take aspirin everyday. If you stop taking aspirin, 
you risk the stent clotting and death. Do not stop taking 
aspirin unless you are told by your cardiologist. No other 
doctor can tell you to stop taking this medication. 

You are also on Plavix (also known as clopidogrel). This 
medication helps keep your stent open. Do not stop taking plavix 
unless you are told by your cardiologist. No other doctor can 
tell you to stop taking this medication. 

We wish you all the best, 
Your ___ Cardiology team
 
Followup Instructions:
___